US06867204B2
A three neck flask was charged with tris(dibenzylideneacetone)dipalladium(0) (6.4 mg, 0.007 mmol, 2 mol % Pd), racemic-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (10.8 mg, 0.017 mmol, 5 mol %), and sodium tert-butoxide (47 mg, 0.48 mmol) and flushed with nitrogen. A solution of 4-benzenesulfonyl-8-bromo-6-chloro-3,4-dihydro-2H-benzo[1,4]oxazine (165 mg, 0.35 mmol) and piperazine-1-carboxylic acid tert-butyl ester (71.1 mg, 0.38 mmol) in toluene (2 mL) was added. The mixture was heated to 95° C. and stirred for 12 hours. The mixture was cooled to room temperature, taken up in ethyl acetate, filtered and concentrated. The crude material was purified by flash chromatography on silica gel (eluting with hexane-ethyl acetate; 7:3, v/v) to give 4-(4-Benzenesulfonyl-6-chloro-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-piperazine-1-carboxylic acid tert-butyl ester as an oil (129 mg, 75%). MS: MH+=494. The crude material was dissolved in ethanol (1 mL) and was treated with a solution of 10% hydrogen chloride in ethanol (1 mL). The mixture was heated on a steam bath for 15 minutes. White crystals precipitated upon cooling to room temperature. The solid was collected, washed with cold ethanol. Drying under vacuum gave 4-benzenesulfonyl-6-chloro-8-piperazin-1-yl-3,4-dihydro-2H-benzo[1,4]oxazine, hydrochloride salt as a white powder (90 mg, 73%). MS: MH+=394. M.p. 202-205° C.

reactant | sodium tert-butoxide | 0.48 mmol, 47 mg | CC(C)([O-])C.[Na+]
reactant | 4-benzenesulfonyl-8-bromo-6-chloro-3,4-dihydro-2H-benzo[1,4]oxazine | 0.35 mmol, 165 mg | C1(=CC=CC=C1)S(=O)(=O)N1CCOC2=C1C=C(C=C2Br)Cl | C14H11BrClNO3S
reactant | piperazine-1-carboxylic acid tert-butyl ester | 0.38 mmol, 71.1 mg | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.007 mmol, 6.4 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | racemic-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.017 mmol, 10.8 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
product | 4-(4-Benzenesulfonyl-6-chloro-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-piperazine-1-carboxylic acid tert-butyl ester | 129 mg, 75% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=CC=2N(CCOC21)S(=O)(=O)C2=CC=CC=C2)Cl | C23H28ClN3O5S
